US07732596B2
4-[(E)-2-Phenylvinyl]benzo[b]thiophene
A mixture of 4-bromobenzo[b]thiophene (0.55 g), styrene (0.89 mL), triethylamine (1.81 mL), palladium(II) acetate (59 mg) and tris(2-methylphenyl)phosphine (0.16 g) in acetonitrile (10 mL) was refluxed overnight under an argon atmosphere. The reaction mixture was diluted with diethyl ether and an insoluble material was removed by filtration. The filtrate washed with 1 mol/L hydrochloric acid, water and brine successively, and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane-n-hexane/ethyl acetate=5/1) to give the title compound (0.56 g).

reactant | 4-bromobenzo[b]thiophene | 0.55 g | BrC1=CC=CC=2SC=CC21 | C8H5BrS
reactant | styrene | 0.89 mL | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 1.81 mL | C(C)N(CC)CC | C6H15N
reactant | tris(2-methylphenyl)phosphine | 0.16 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 59 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[(E)-2-Phenylvinyl]benzo[b]thiophene | 0.56 g | C1(=CC=CC=C1)/C=C/C1=CC=CC=2SC=CC21 | C16H12S
